US07906517B2
{2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-methanol (7.0 g) is dissolved in toluene (70 ml) and thereto are added 5-bromo-2-chloro-pyrimidine (4.7 g) and N,N-diisopropylethylamine (4.23 ml) and the mixture is heated under reflux for 3 days. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→13:2) to give (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methanol (7.37 g). MS (m/z): 588/590 [M+H]+

reactant | {2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-methanol | 7.0 g | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)CO)C=C(C1)C(F)(F)F)(F)F | C18H14F9NO
reactant | 5-bromo-2-chloro-pyrimidine | 4.7 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | N,N-diisopropylethylamine | 4.23 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methanol | 7.37 g | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)CO)C=C(C1)C(F)(F)F)(F)F | C22H15BrF9N3O
